US07371773B2
4-Hydroxybenzyl cyanide (4.3 g) and 2-methoxyethoxymethyl chloride (4.1 g) were subjected to reaction in accordance with (production process 1), to thereby produce 4-methoxyethoxymethoxybenzyl cyanide (5.4 g, yield: 75%). The thus-produced 4-methoxyethoxymethoxybenzyl cyanide (2.1 g) and 4-methoxyethoxymethoxybenzaldehyde (2.0 g) produced in the production process for compound 1 were subjected to condensation in accordance with process A of (production process 2), to thereby yield an MEM form of the target product. Subsequently, the protective group was removed from the MEM form in accordance with (production process 3), to thereby produce the target product (1.1 g, yield: 49%).

reactant | 4-Hydroxybenzyl cyanide | 4.3 g | OC1=CC=C(CC#N)C=C1 | C8H7NO
reactant | 2-methoxyethoxymethyl chloride | 4.1 g | COCCOCCl | C4H9ClO2
product | 4-methoxyethoxymethoxybenzyl cyanide | 5.4 g, yield: 75% | COCCOCOC1=CC=C(CC#N)C=C1 | C12H15NO3
